US09260441B2
Step G: (E)-1-[4-(4-ethoxy-6-methyl-2-pyridyl)piperazin-1-yl]-4,4,4-trifluoro-but-2-en-1-one
(E)-4,4,4-Trifluorobut-2-enoic acid (17 mg, 0.12 mmol) was dissolved in dichloromethane (1 ml), oxalyl chloride (11 μl, 0.12 mmol) was added and the resulting solution was stirred at room temperature for 10 minutes. This solution was added to a solution of 1-(4-ethoxy-6-methyl-2-pyridyl)piperazine hydrochloride (22 mg, 0.086 mmol) and TEA (42 μl, 0.3 mmol) in anhydrous DMF (0.5 ml) and the resulting mixture was stirred at room temperature for one hour. The mixture was diluted with ethyl acetate, washed with sat. sodium bicarbonate solution, brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters X-Bridge, gradient of water containing 0.1% NH3 and acetonitrile) to yield 12 mg of a solid (0.035 mmol, yield 41%).

reactant | (E)-4,4,4-Trifluorobut-2-enoic acid | 0.12 mmol, 17 mg | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | oxalyl chloride | 0.12 mmol, 11 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-ethoxy-6-methyl-2-pyridyl)piperazine hydrochloride | 0.086 mmol, 22 mg | Cl.C(C)OC1=CC(=NC(=C1)C)N1CCNCC1
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-[4-(4-ethoxy-6-methyl-2-pyridyl)piperazin-1-yl]-4,4,4-trifluoro-but-2-en-1-one | 0.035 mmol, 12 mg, yield 41% | C(C)OC1=CC(=NC(=C1)C)N1CCN(CC1)C(\C=C\C(F)(F)F)=O | C16H20F3N3O2
